2194-01-23 08:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2194-1-23**] 04:00 AM
 PICC LINE - START [**2194-1-23**] 04:56 AM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Cozaar (Oral) (Losartan Potassium)
   Unknown;
   Captopril
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-1-23**] 08:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 92 (85 - 98) bpm
   BP: 104/51(63) {101/51(63) - 122/62(73)} mmHg
   RR: 15 (13 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
             2,505 mL
   PO:
             TF:
   IVF:
   5 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    500 mL
   Urine:
   500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  2,005 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 399 (399 - 399) mL
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 194
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 7.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2194-1-23**] 04:55 AM
   PICC Line - [**2194-1-23**] 04:56 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-01-24 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - spoke to PCP: [**Name10 (NameIs) **] diastolic failure per cardiologist [**Last Name (un) 6013**] at
   [**Hospital1 1030**].  No known non-hodgkins lymphoma, but had thyroid CA treated at
   Farber by Dr. [**Last Name (STitle) 6014**] with surgery and radiation.
   - CT neck - unchanged.  page ortho in AM
   - CEs negative x 3
   - low BP 60s to 90s o/n while sleeping
   - slightly agitated - got trazodone, zyprexa (on top of qhs seroquel).
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Cozaar (Oral) (Losartan Potassium)
   Unknown;
   Captopril
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2194-1-23**] 07:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-1-24**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 78 (71 - 117) bpm
   BP: 75/39(48) {71/38(47) - 141/4,032(108)} mmHg
   RR: 13 (8 - 44) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                  3,851 mL
                                                                    411 mL
   PO:
             TF:
                                                                    116 mL
                                                                    184 mL
   IVF:
                                                                  1,000 mL
                                                                    227 mL
   Blood products:
   Total out:
                                                                    987 mL
                                                                    160 mL
   Urine:
                                                                    987 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,864 mL
                                                                    251 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 378 (330 - 510) mL
   PS : 15 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 196
   PIP: 20 cmH2O
   SpO2: 98%
   ABG: ///26/
   Ve: 6.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   296 K/uL
   9.3 g/dL
   99 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.2 mEq/L
   20 mg/dL
   107 mEq/L
   141 mEq/L
   28.3 %
   9.8 K/uL
        [image002.jpg]
                             [**2194-1-23**]  08:16 AM
                             [**2194-1-23**]  04:40 PM
                             [**2194-1-23**]  05:00 PM
                             [**2194-1-24**]  05:20 AM
   WBC
   9.8
   Hct
   26.6
   28.3
   Plt
   296
   Cr
   0.7
   0.8
   TropT
   0.04
   0.03
   Glucose
   95
   99
   Other labs: PT / PTT / INR:40.8/30.8/4.5, CK / CKMB /
   Troponin-T:27//0.03, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   77 y/o lady with CHF, AF, HTN was discharged from Trauma service
   yesterday after she was admitted here with C7 fracure secondary to fall
   now presents with hypotension.
   .
   # Hypotension:  Patient became hypotensive after receiving 40 mg IV
   furosemide and cardizem medications.  She has also recieved ativan
   prior to these medications.  She is afebrile and does not have
   leukocytosis.  No signs or symptoms of infection currently.  Patient
   was found to have episodes of really low BP during recent
   hospitalization.  Unlcear etiology. She was started on midodrine. Blood
   pressures responding to hydration indicate that she might have been
   dehydrated.  Cardiac ischemia will remain low in the differential as
   mentioned below.
   - follow cultures
   - will hold off on antibiotics as no evidence of infection currently
   - patient has received 1 uPRBC from ED for chronic anemia, no active
   signs or symptoms of bleeding
   - random cortisol, ? [**Last Name (un) 402**] stim was normal during last admission
   - unclear why patient was started on clonidine, will verify with
   provider, [**Name10 (NameIs) **] discuss tapering it off with team vs discontinuing
   .
   # Troponitis: Cardiology saw the patient in ED and did not think that
   there is any acute cardiac etiologies.  Patient does have nonspecific
   EKG changes.  Most likely demand ischemia in the setting of
   hypotension.  Cardiology has seen the consulted in ED.
   - cycle CE
   - asa
   - supratherapeutic INR
   .
   # Chronic vent dependence:  Intubated for ? glottic swelling.  s/p
   pleural effusion drainiage during recent admission.  However it appears
   that her pleural fluid has reaccumilated.  Transudative effusion per
   prior taps.
   - now s/p trach
   - wean off vent as she tolerates
   .
   # Pleural effusion: Unclear etiology.  ? [**12-30**] to diastolic heart
   failure.
   .
   # Atrial fibrillation:  Currently rate controlled.
   - rate control
   - supratherapeutic INR, will hold coumadin
   .
   # Anemia:  Most likely secondary to recent admission and frequent
   phlebotomy.  Normocytic.
   - normal vit B12 and folate on [**2194-1-14**]
   - will check iron panel
   .
   # ? NHL:
   - need to verify history with PCP
   .
   # ? Thyroid disease:
   - need to verify with PCP
   .
   # FEN:  NPO for now, TF in morning, replete lytes prn, failed speech
   and swallow this month
   .
   # PPx:  supra therapeutic INR, PPI
   .
   # Contact:  [**Name (NI) 2120**] [**Name (NI) 5696**] [**Telephone/Fax (1) 5980**]
   .
   # Code:  Full Code
   .
   # Dispo:  Pending above mentioned workup
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2194-1-23**] 04:55 AM
   PICC Line - [**2194-1-23**] 04:56 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-01-24 09:09:00 Physician Attending Progress Note
Chief Complaint: C7 Fracture
   Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   77 y/o f with CHF, afib, htn, recent d/c after C7 fracture, returns
   from rehab with hypotension after lasix, diltiazem, BP improved with
   IVF.
   24 Hour Events:
   PCP was called and confirmed patient just has thyroid cancer, no
   non-hodgkin's lymphoma.
   CT neck unchanged from prior C7 fx
   CE neg X3
   SBP 60-90s while sleeping
   Recieved trazodone and zyprexa for agitation.
   Got 5mg IV metoprolol for tachycardia
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Cozaar (Oral) (Losartan Potassium)
   Unknown;
   Captopril
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2194-1-23**] 07:58 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-1-24**] 09:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.9
   HR: 82 (71 - 117) bpm
   BP: 125/60(75) {71/38(47) - 141/4,032(108)} mmHg
   RR: 23 (8 - 44) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                  3,851 mL
                                                                    603 mL
   PO:
             TF:
                                                                    116 mL
                                                                    256 mL
   IVF:
                                                                  1,000 mL
                                                                    237 mL
   Blood products:
   Total out:
                                                                    987 mL
                                                                    210 mL
   Urine:
                                                                    987 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,864 mL
                                                                    393 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 320 (320 - 464) mL
   PS : 15 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 196
   PIP: 20 cmH2O
   SpO2: 98%
   ABG: ///26/
   Ve: 6.1 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : R
   base), (Breath Sounds: Diminished: R base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   296 K/uL
   99 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.2 mEq/L
   20 mg/dL
   107 mEq/L
   141 mEq/L
   28.3 %
   9.8 K/uL
        [image002.jpg]
                             [**2194-1-23**]  08:16 AM
                             [**2194-1-23**]  04:40 PM
                             [**2194-1-23**]  05:00 PM
                             [**2194-1-24**]  05:20 AM
   WBC
   9.8
   Hct
   26.6
   28.3
   Plt
   296
   Cr
   0.7
   0.8
   TropT
   0.04
   0.03
   Glucose
   95
   99
   Other labs: PT / PTT / INR:40.8/30.8/4.5, CK / CKMB /
   Troponin-T:27//0.03, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 ANXIETY
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   77 y/o f with CHF, afib, htn, recent d/c after C7 fracture, returns
   from rehab with hypotension after lasix, diltiazem, BP improved with
   IVF.
   1. Hypotension: Suspect [**12-30**] medications. No evidence of infection
   currently.
   -goal MAP >55 as long as mentating
   -I/O goal even
   -cont. midodrine
   2. CV: ruled out for MI
   -INR elevated for afib, holding coumadin
   -d/c ASA
   3. L sided weakness: Unclear if this is new
   -CT head to r/o SDH or evolving CVA
   4. Resp failure: Initially trached for glottic swelling
   -Cont. TM and on/off [**4-1**] for 2 hour intervals
   -check CXR
   5. anemia: responded to 1U PRBCs
   6. Thyroid ca: f/u TFTs as o/p
   -cont. synthroid
   7. FEN: advance TF
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2194-1-24**] 06:37 AM 40 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2194-1-23**] 04:55 AM
   PICC Line - [**2194-1-23**] 04:56 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes

2194-01-25 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Per Ortho, keep C-collar on x 8 weeks ([**2-26**]).  F/u appt with
   [**Doctor Last Name 2660**] scheduled.
   - ASA discontinued as ROMI completed
   - continues to have intermittent self-limited episodes of tachypnea and
   tachycardia related to agitation/anxiety
   - [**Hospital3 **] asked to to remain in ICU to monitor her pleural
   effusions until Monday
   - weaned to [**9-1**] overnight, however had to increase to 15/5 given
   tachypnea
   - CT head without acute intracranial hemorrhage, ? ongoing inflammation
   in sinuses
   - patient complained of abdominal pain during rounds
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Cozaar (Oral) (Losartan Potassium)
   Unknown;
   Captopril
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-1-25**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.2
   HR: 86 (72 - 110) bpm
   BP: 112/48(64) {65/31(42) - 138/82(92)} mmHg
   RR: 23 (0 - 35) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
                  Total In:
                                                                  1,713 mL
                                                                    452 mL
   PO:
                  TF:
                                                                  1,128 mL
                                                                    452 mL
   IVF:
                                                                    255 mL
   Blood products:
   Total out:
                                                                    584 mL
                                                                    370 mL
   Urine:
                                                                    584 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,129 mL
                                                                     82 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 315 (315 - 390) mL
   PS : 15 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 156
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: ///27/
   NIF: -14 cmH2O
   Ve: 9.1 L/min
   Physical Examination
   Gen: agitated, able to answer questions
   Heent: MMM
   Heart: S1S2 tachycardic, irregular
   Lungs: CTAB in anterior lung fields
   Abd: soft, BS present, TTP in RUQ, no guarding
   Ext: WWP
   Rectal: soft stool, guaic negative
   Neuro: spont moves all 4 ext
   Labs / Radiology
   259 K/uL
   9.1 g/dL
   106 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.9 mEq/L
   20 mg/dL
   108 mEq/L
   142 mEq/L
   26.7 %
   6.2 K/uL
        [image002.jpg]
                             [**2194-1-23**]  08:16 AM
                             [**2194-1-23**]  04:40 PM
                             [**2194-1-23**]  05:00 PM
                             [**2194-1-24**]  05:20 AM
                             [**2194-1-25**]  04:53 AM
   WBC
   9.8
   6.2
   Hct
   26.6
   28.3
   26.7
   Plt
   296
   259
   Cr
   0.7
   0.8
   0.7
   TropT
   0.04
   0.03
   Glucose
   95
   99
   106
   Other labs: PT / PTT / INR:30.5/30.8/3.1, CK / CKMB /
   Troponin-T:27//0.03, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   77 y/o lady with CHF, AF, HTN was discharged from Trauma service
   yesterday after she was admitted here with C7 fracure secondary to fall
   now presents with hypotension.
   .
   # Abdominal pain:  New onset.  Unclear etiology.
   -          KUB to rule out obstruction, hold TF for now
   -          Will check LFTs, amylase, lipase
   -          Will send c diff
   .
   # Hypotension:  Most likely secondary to multiple medications.  No
   signs of infection currently.  Patient was found to have episodes of
   really low BP during recent hospitalization.  Unlcear etiology. She was
   started on midodrine. Blood pressures responding to hydration indicate
   that she might have been dehydrated.
   - follow cultures
   - random cortisol, ? [**Last Name (un) 402**] stim was normal during last admission
   - discontinued clonidine
   - ideal BP will be SBP 90s given dCHF, however her BP does decrease
   below that while sleeping
   .
   # Chronic vent dependence:  Intubated for ? glottic swelling.  s/p
   pleural effusion drainiage during recent admission.  However it appears
   that her pleural fluid has reaccumilated.  Transudative effusion per
   prior taps.
   - now s/p trach
   - wean off vent as she tolerates
   .
   # Diastolic heart failure:  Has chronic right pleural effusion.  Will
   try to optimize management with BB if BP could tolerate.
   -          coreg 2.5 mg [**Hospital1 **], uptitrate as possible
   -          allergic to ace-I and [**Last Name (un) **]
   -          ruled out for MI.
   .
   # Atrial fibrillation:
   - rate control with BB
   - supratherapeutic INR, now trending down, start warfarin 1 mg daily
   .
   # Anemia:  Most likely secondary to recent admission and frequent
   phlebotomy.  Normocytic.
   - normal vit B12 and folate on [**2194-1-14**]
   - HCT improved appropriately after 1uPRBCs on [**12-23**]
   .
   # Thyroid disease:  Thyroid CA s/p surgery and radiation.
   - continue levothyroxine
   - needs out patient follow up
   .
   # asymetric weakeness:  No clear history of stroke after comparing
   PCP
[**Name Initial (PRE) **] note.  C-spine without acute changes of C7/T2 fractures.
   - Per Ortho, keep C-collar on x 8 weeks ([**2-26**]).  F/u appt with
   [**Doctor Last Name 2660**] scheduled.
   .
   # FEN:  tube feeds, replete lytes prn, failed speech and swallow this
   month
   .
   # PPx:  supra therapeutic INR, PPI
   .
   # Contact:  [**Name (NI) 2120**] [**Name (NI) 5696**] [**Telephone/Fax (1) 5980**]
   .
   # Code:  Full Code
   .
   # Dispo:  ICU for today, may go to [**Hospital1 **] tomorrow or Monday
   .
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2194-1-25**] 05:18 AM 60.[**Telephone/Fax (5) 6032**]
   mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2194-1-23**] 04:55 AM
   PICC Line - [**2194-1-23**] 04:56 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-01-25 12:14:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   77 y/o f with CHF, afib, htn, recent d/c after C7 fracture, returns
   from rehab with hypotension after lasix, diltiazem, BP improved with
   IVF. BP runs a bit low when sleeping but mentates fine. I/O goal neg
   today. Trying to get back to rehab Monday.
   24 Hour Events:
   Ortho rec continued C collar until [**2-26**], then f/u with Dr. [**Last Name (STitle) 2660**].
   Ruled out for MI. Continues to have tachypnea/tachycardia with
   agitation. Complaining of abd pain. CT head unremarkable, except for
   sinusitis. Developed RLQ abd pain thia am while on the commode.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Cozaar (Oral) (Losartan Potassium)
   Unknown;
   Captopril
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2194-1-25**] 08:00 AM
   Morphine Sulfate - [**2194-1-25**] 11:15 AM
   Metoprolol - [**2194-1-25**] 11:25 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-1-25**] 12:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 101 (72 - 188) bpm
   BP: 113/88(93) {68/31(42) - 138/88(93)} mmHg
   RR: 36 (0 - 36) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
                  Total In:
                                                                  1,713 mL
                                                                    787 mL
   PO:
                  TF:
                                                                  1,128 mL
                                                                    697 mL
   IVF:
                                                                    255 mL
   Blood products:
   Total out:
                                                                    584 mL
                                                                    760 mL
   Urine:
                                                                    584 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,129 mL
                                                                     27 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 260 (260 - 360) mL
   PS : 15 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 100%
   RSBI: 156
   PIP: 21 cmH2O
   SpO2: 96%
   ABG: ///27/
   Ve: 8.4 L/min
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: R base)
   Abdominal: Soft, Tender: RLQ
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands
   Labs / Radiology
   9.1 g/dL
   259 K/uL
   106 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.9 mEq/L
   20 mg/dL
   108 mEq/L
   142 mEq/L
   26.7 %
   6.2 K/uL
        [image002.jpg]
                             [**2194-1-23**]  08:16 AM
                             [**2194-1-23**]  04:40 PM
                             [**2194-1-23**]  05:00 PM
                             [**2194-1-24**]  05:20 AM
                             [**2194-1-25**]  04:53 AM
   WBC
   9.8
   6.2
   Hct
   26.6
   28.3
   26.7
   Plt
   296
   259
   Cr
   0.7
   0.8
   0.7
   TropT
   0.04
   0.03
   Glucose
   95
   99
   106
   Other labs: PT / PTT / INR:30.5/30.8/3.1, CK / CKMB /
   Troponin-T:27//0.03, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 ANXIETY
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   77 y/o f with CHF, afib, htn, recent d/c after C7 fracture, returns
   from rehab with hypotension after lasix, diltiazem, BP improved with
   IVF.  Now with agitation and abd pain.
   1. Abd pain: Possible obstruction?
   -check KUB
   -rectal exam
   -check LFTs
   Check C diff
   2. Hypotension: Worse at night, partially rate related
   -cont. midodrine
   -improved from admission
   3. resp failure: [**Month (only) 51**] have diaphragmatic dysfunction given paradoxic abd
   movement
   -check ABG to r/o hypercarbia
   -diurese
   4. diastolic heart failure/afib
   -start coumadin at 1 mg
   -start coreg 3.25 [**Hospital1 **]
   diurese 1L today
   5. FEN: hold TF until obx ruled out
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2194-1-23**] 04:55 AM
   PICC Line - [**2194-1-23**] 04:56 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   Addendum
   Acute tachycardia and hypertensive at 14:00 with an appearance of flash
   pulm edema - HR improved with bblockade.
   Unclear precipitant- pain, acute withdrawl of clonidine
   Check 12 lead
   Abd exam stable. If worsens CT
   Time 15 min

2194-01-26 08:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient received low dose 0.25 to 0.5 ativan yesterday for agitation
   - She received morphine IV 1 mg x 2 for abdominal pain
   - She received 0.25 mg IV haldol this morning
   - LFTs/amylase/lipase were normal
   - C diff was ordered, however, no stools yet
   - CXR no acute process, moderate to large right pleural effusion
   - KUB without obstruction, started on tube feeds
   - Patient received IV metoprolol 5 mg IV twice yesterday for
   tachycardia, she was started on carvedilol 3.25 [**Hospital1 7**] which was quickly
   uptitrated to 6.25 [**Hospital1 7**]
   - patient was placed on CMV/AC overnight due to tachypnea, breathing
   improved
   - ? lymphoma in thyroid and abdomen per daughter
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Cozaar (Oral) (Losartan Potassium)
   Unknown;
   Captopril
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2194-1-25**] 08:00 AM
   Morphine Sulfate - [**2194-1-25**] 02:10 PM
   Metoprolol - [**2194-1-25**] 02:10 PM
   Lorazepam (Ativan) - [**2194-1-25**] 06:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-1-26**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 109 (69 - 188) bpm
   BP: 137/67(84) {61/34(40) - 183/132(139)} mmHg
   RR: 34 (7 - 39) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
                  Total In:
                                                                  1,047 mL
                                                                    319 mL
   PO:
                                                                     50 mL
                  TF:
                                                                    777 mL
                                                                    319 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,125 mL
                                                                    135 mL
   Urine:
                                                                  1,125 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -78 mL
                                                                    184 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (0 - 380) mL
   Vt (Spontaneous): 356 (260 - 356) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 179
   PIP: 0 cmH2O
   Plateau: 19 cmH2O
   Compliance: 30.4 cmH2O/mL
   SpO2: 95%
   ABG: ///28/
   Ve: 8.8 L/min
   Physical Examination
   Gen: awake, following commands, trach
   Heent: MMM
   Lungs: clear ateriorly
   Heart: S1S2 tachycardic
   Abdomen: PEG in place, soft NTND
   Ext: WWP
   Neuro: spont moves all 4 ext
   Labs / Radiology
   276 K/uL
   9.0 g/dL
   100 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.6 mEq/L
   31 mg/dL
   111 mEq/L
   144 mEq/L
   26.8 %
   6.8 K/uL
        [image002.jpg]
                             [**2194-1-23**]  08:16 AM
                             [**2194-1-23**]  04:40 PM
                             [**2194-1-23**]  05:00 PM
                             [**2194-1-24**]  05:20 AM
                             [**2194-1-25**]  04:53 AM
                             [**2194-1-26**]  04:11 AM
   WBC
   9.8
   6.2
   6.8
   Hct
   26.6
   28.3
   26.7
   26.8
   Plt
   296
   259
   276
   Cr
   0.7
   0.8
   0.7
   0.8
   TropT
   0.04
   0.03
   Glucose
   95
   99
   106
   100
   Other labs: PT / PTT / INR:28.9/30.3/2.9, CK / CKMB /
   Troponin-T:27//0.03, ALT / AST:17/18, Alk Phos / T Bili:72/0.5, Amylase
   / Lipase:33/56, LDH:183 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   77 y/o lady with CHF, AF, HTN was discharged from Trauma service
   yesterday after she was admitted here with C7 fracure secondary to fall
   now presents with hypotension.
   .
   # Hypotension:  Most likely secondary to multiple medications.  No
   signs of infection currently.  Patient was found to have episodes of
   really low BP during recent hospitalization.  Unlcear etiology. She was
   started on midodrine.   Her BP improved with holding clonidine.
   However still has low BP while sleeping.
   - ideal BP will be SBP 90s given dCHF, however her BP does decrease
   below that while sleeping
   - carvedilolol 6.25 [**Hospital1 **]
   .
   # Chronic vent dependence:  Intubated for ? glottic swelling.  s/p
   pleural effusion drainiage during recent admission.  However it appears
   that her pleural fluid has reaccumilated.  Transudative effusion per
   prior taps.  ? Diaphragmetic dysfunctiion given low NIF.
   - check NIF
   - wean off vent as she tolerates
   - check ABG
   .
   # Diastolic heart failure:  Has chronic right pleural effusion.  Will
   try to optimize management with BB if BP could tolerate.
   -          coreg 6.5 mg [**Hospital1 **], uptitrate as possible
   -          allergic to ace-I and [**Last Name (un) **]
   -          lasix IV prn for target I&O negative 1L for improvement in
   pleural effusion (given tyring to wean off of vent)
   -          ruled out for MI.
   .
   # Abdominal pain:  New onset.  Unclear etiology.  Improved.
   -          KUB did not show any obstruction, restarted TF
   -          Normal LFTs, amylase, lipase
   -          c diff ordered
   # Atrial fibrillation:
   - rate control with BB
   - supratherapeutic INR, now trending down, start warfarin 1 mg daily
   .
   # Anemia:  Most likely secondary to recent admission and frequent
   phlebotomy.  Normocytic.
   - normal vit B12 and folate on [**2194-1-14**]
   - HCT improved appropriately after 1uPRBCs on [**12-23**]
   .
   # Thyroid disease:  Thyroid CA s/p surgery and radiation.
   - continue levothyroxine
   - needs out patient follow up
   .
   # C7-T2 fractures:  No clear history of stroke after comparing PCP
   [**Name Initial (PRE) 1596**].  C-spine without acute changes of C7/T2 fractures.
   - Per Ortho, keep C-collar on x 8 weeks ([**2-26**]).  F/u appt with
   [**Doctor Last Name 2660**] scheduled.
   .
   # FEN:  tube feeds, replete lytes prn, failed speech and swallow this
   month
   .
   # PPx:  therapeutic INR, PPI
   .
   # Contact:  [**Name (NI) 2120**] [**Name (NI) 5696**] [**Telephone/Fax (1) 5980**]
   .
   # Code:  Full Code
   .
   # Dispo:  ICU for today, may go to [**Hospital1 **] tomorrow or Monday
   .
   ICU Care
   Nutrition:
   Replete with Fiber ([**12-1**]) - [**2194-1-25**] 10:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2194-1-23**] 04:56 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-01-26 11:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    77 y/o f with CHF, afib, htn, recent d/c after C7 fracture, returns
   from rehab with hypotension after lasix, diltiazem, BP improved with
   IVF. BP runs a bit low when sleeping but mentates fine. I/O goal neg 1L
   today. [**1-25**] developed RLQ abd pain after trying to stool on commode.
   KUB without obx, rectal exam showed no impaction, no further abd pain.
   Now appears delirious, trying to avoid benzos, just using haldol.
   Overnight was tachypneic on 15/5 so placed on A/C. Trying to get back
   to rehab Monday if weaning on vent.
   24 Hour Events:
   Recieved haldol for agitation. Started on coreg for HR control. KUB
   showed no bowel obx. Switched to volume control overnight for
   tachypnea.
 EKG - At [**2194-1-25**] 02:15 PM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Cozaar (Oral) (Losartan Potassium)
   Unknown;
   Captopril
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2194-1-25**] 02:10 PM
   Metoprolol - [**2194-1-25**] 02:10 PM
   Lorazepam (Ativan) - [**2194-1-25**] 06:20 PM
   Lansoprazole (Prevacid) - [**2194-1-26**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-1-26**] 11:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.6
   HR: 69 (69 - 156) bpm
   BP: 83/43(52) {61/34(40) - 183/132(139)} mmHg
   RR: 24 (7 - 39) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
                  Total In:
                                                                  1,047 mL
                                                                    600 mL
   PO:
                                                                     50 mL
                  TF:
                                                                    777 mL
                                                                    420 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,125 mL
                                                                    195 mL
   Urine:
                                                                  1,125 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -78 mL
                                                                    405 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (0 - 380) mL
   Vt (Spontaneous): 356 (280 - 356) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 179
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   Compliance: 33 cmH2O/mL
   SpO2: 97%
   ABG: ///28/
   Ve: 5.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   276 K/uL
   100 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.6 mEq/L
   31 mg/dL
   111 mEq/L
   144 mEq/L
   26.8 %
   6.8 K/uL
        [image002.jpg]
                             [**2194-1-23**]  08:16 AM
                             [**2194-1-23**]  04:40 PM
                             [**2194-1-23**]  05:00 PM
                             [**2194-1-24**]  05:20 AM
                             [**2194-1-25**]  04:53 AM
                             [**2194-1-26**]  04:11 AM
   WBC
   9.8
   6.2
   6.8
   Hct
   26.6
   28.3
   26.7
   26.8
   Plt
   296
   259
   276
   Cr
   0.7
   0.8
   0.7
   0.8
   TropT
   0.04
   0.03
   Glucose
   95
   99
   106
   100
   Other labs: PT / PTT / INR:28.9/30.3/2.9, CK / CKMB /
   Troponin-T:27//0.03, ALT / AST:17/18, Alk Phos / T Bili:72/0.5, Amylase
   / Lipase:33/56, LDH:183 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
 ANXIETY
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   77 y/o f with CHF, afib, htn, recent d/c after C7 fracture, returns
   from rehab with hypotension after lasix, diltiazem, BP improved with
   IVF. BP runs a bit low when sleeping but mentates fine. I/O goal neg 1L
   today. [**1-25**] developed RLQ abd pain after trying to stool on commode.
   KUB without obx, rectal exam showed no impaction, no further abd pain.
   Now appears delirious, trying to avoid benzos, just using haldol.
   Overnight was tachypneic on 15/5 so placed on A/C. Trying to get back
   to rehab Monday if weaning on vent.
   1. Hypotension: Now only occurs with sleep, no evidence of infection
   -goal diuresis today
   -goal MAP >55 as long as mentating
   2. afib/diastolic CHF
   -goal neg 1L
   -try lasix 20 mg IV
   -cont. coreg
   -cont. coumadin 1 mg
   3. Resp failure: Not tolerating PS
   -keep upright
   -check a NIF
   -if tachypneic, check ABG
   4. agitation: suspect [**12-30**] resp distress and delirium
   -haldol prn
   5. thyroid ca f/u as outpatient
   6. C7 and T2 fx, cont. collar
   -f/u with Dr. [**Last Name (STitle) 2660**]
   7. FEN: TF
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2194-1-23**] 04:56 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill.

2194-01-27 08:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - NIF - only negative 12 and substantially distressed.
   - wean vent to MMV 15/5, did well
   - worsening respiratory status thought [**12-30**] CHF
   - lasix 20mg IV x 3
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Cozaar (Oral) (Losartan Potassium)
   Unknown;
   Captopril
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2194-1-26**] 11:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-1-27**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.7
   HR: 79 (69 - 120) bpm
   BP: 66/30(38) {60/28(35) - 151/120(124)} mmHg
   RR: 25 (14 - 32) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
                  Total In:
                                                                  1,495 mL
                                                                    667 mL
   PO:
                  TF:
                                                                  1,165 mL
                                                                    487 mL
   IVF:
   Blood products:
   Total out:
                                                                  2,605 mL
                                                                  1,000 mL
   Urine:
                                                                  2,605 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,110 mL
                                                                   -333 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 380) mL
   Vt (Spontaneous): 300 (162 - 359) mL
   PS : 15 cmH2O
   RR (Set): 0
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   SpO2: 94%
   ABG: ///32/
   NIF: -12 cmH2O
   Ve: 8.6 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, elderly
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Clear : , Rhonchorous: )
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   297 K/uL
   9.6 g/dL
   105 mg/dL
   0.9 mg/dL
   32 mEq/L
   3.7 mEq/L
   34 mg/dL
   104 mEq/L
   144 mEq/L
   27.2 %
   6.6 K/uL
        [image002.jpg]
                             [**2194-1-23**]  08:16 AM
                             [**2194-1-23**]  04:40 PM
                             [**2194-1-23**]  05:00 PM
                             [**2194-1-24**]  05:20 AM
                             [**2194-1-25**]  04:53 AM
                             [**2194-1-26**]  04:11 AM
                             [**2194-1-26**]  05:10 PM
                             [**2194-1-27**]  04:28 AM
   WBC
   9.8
   6.2
   6.8
   6.6
   Hct
   26.6
   28.3
   26.7
   26.8
   27.2
   Plt
   296
   259
   276
   297
   Cr
   0.7
   0.8
   0.7
   0.8
   0.8
   0.9
   TropT
   0.04
   0.03
   Glucose
   95
   99
   106
   100
   110
   105
   Other labs: PT / PTT / INR:29.6/28.0/3.0, CK / CKMB /
   Troponin-T:27//0.03, ALT / AST:17/18, Alk Phos / T Bili:72/0.5, Amylase
   / Lipase:33/56, LDH:183 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.5
   mg/dL
   Microbiology: RESPIRATORY CULTURE (Final [**2194-1-26**]):
         OROPHARYNGEAL FLORA ABSENT.
         STAPH AUREUS COAG +.    SPARSE GROWTH.
            OF THREE COLONIAL MORPHOLOGIES.
   SENSITIVITIES: MIC expressed in MCG/ML
   STAPH AUREUS COAG +
                                |
   CLINDAMYCIN-----------<=0.25 S
   ERYTHROMYCIN----------<=0.25 S
   GENTAMICIN------------ <=0.5 S
   LEVOFLOXACIN----------<=0.12 S
   OXACILLIN-------------<=0.25 S
   TRIMETHOPRIM/SULFA---- <=0.5 S
   Assessment and Plan
   77 y/o lady with CHF, AF, HTN was discharged from Trauma service
   yesterday after she was admitted here with C7 fracure secondary to fall
   now presents with hypotension.
   .
   # Hypotension:  Most likely secondary to multiple medications.  No
   signs of infection currently.  Patient was found to have episodes of
   really low BP during recent hospitalization.  Unlcear etiology. She was
   started on midodrine.   Her BP improved with holding clonidine.
   However still has low BP while sleeping.
   - ideal BP will be SBP 90s given dCHF, however her BP does decrease
   below that while sleeping
   - carvedilolol 6.25 [**Hospital1 **]
   .
   # Chronic vent dependence:  Intubated for ? glottic swelling.  s/p
   pleural effusion drainiage during recent admission.  However it appears
   that her pleural fluid has reaccumilated.  Transudative effusion per
   prior taps.  ? Diaphragmetic dysfunctiion given low NIF.
   - check NIF
   - wean off vent as she tolerates
   - check ABG
   .
   # Diastolic heart failure:  Has chronic right pleural effusion.  Will
   try to optimize management with BB if BP could tolerate.
   -          coreg 6.5 mg [**Hospital1 **], uptitrate as possible
   -          allergic to ace-I and [**Last Name (un) **]
   -          lasix IV prn for target I&O negative 1L for improvement in
   pleural effusion (given tyring to wean off of vent)
   -          ruled out for MI.
   .
   # Abdominal pain:  New onset.  Unclear etiology.  Improved.
   -          KUB did not show any obstruction, restarted TF
   -          Normal LFTs, amylase, lipase
   -          c diff ordered
   # Atrial fibrillation:
   - rate control with BB
   - supratherapeutic INR, now trending down, start warfarin 1 mg daily
   .
   # Anemia:  Most likely secondary to recent admission and frequent
   phlebotomy.  Normocytic.
   - normal vit B12 and folate on [**2194-1-14**]
   - HCT improved appropriately after 1uPRBCs on [**12-23**]
   .
   # Thyroid disease:  Thyroid CA s/p surgery and radiation.
   - continue levothyroxine
   - needs out patient follow up
   .
   # C7-T2 fractures:  No clear history of stroke after comparing PCP
   [**Name Initial (PRE) 1596**].  C-spine without acute changes of C7/T2 fractures.
   - Per Ortho, keep C-collar on x 8 weeks ([**2-26**]).  F/u appt with
   [**Doctor Last Name 2660**] scheduled.
   .
   # FEN:  tube feeds, replete lytes prn, failed speech and swallow this
   month
   .
   # PPx:  therapeutic INR, PPI
   .
   # Contact:  [**Name (NI) 2120**] [**Name (NI) 5696**] [**Telephone/Fax (1) 5980**]
   .
   # Code:  Full Code
   .
   # Dispo:  ICU for today
   ICU Care
   Nutrition:
   Replete with Fiber ([**12-1**]) - [**2194-1-27**] 03:43 AM 60 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2194-1-23**] 04:56 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed
   Comments:
   Code status: Full code
   Disposition:

2194-01-27 11:12:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   NIF was -12. Diuresed overnight. Weaned to 15/5.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Cozaar (Oral) (Losartan Potassium)
   Unknown;
   Captopril
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2194-1-26**] 11:08 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-1-27**] 11:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.2
   HR: 99 (75 - 120) bpm
   BP: 129/74(88) {60/28(35) - 151/120(124)} mmHg
   RR: 23 (14 - 32) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
                  Total In:
                                                                  1,495 mL
                                                                    993 mL
   PO:
                  TF:
                                                                  1,165 mL
                                                                    663 mL
   IVF:
   Blood products:
   Total out:
                                                                  2,605 mL
                                                                  1,245 mL
   Urine:
                                                                  2,605 mL
                                                                  1,245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,110 mL
                                                                   -252 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 380) mL
   Vt (Spontaneous): 330 (162 - 359) mL
   PS : 15 cmH2O
   RR (Set): 0
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 150
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 95%
   ABG: 7.45/45/78.[**Numeric Identifier 181**]/32/6
   NIF: -30 cmH2O
   Ve: 9.2 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.6 g/dL
   297 K/uL
   105 mg/dL
   0.9 mg/dL
   32 mEq/L
   3.7 mEq/L
   34 mg/dL
   104 mEq/L
   144 mEq/L
   27.2 %
   6.6 K/uL
        [image002.jpg]
                             [**2194-1-23**]  08:16 AM
                             [**2194-1-23**]  04:40 PM
                             [**2194-1-23**]  05:00 PM
                             [**2194-1-24**]  05:20 AM
                             [**2194-1-25**]  04:53 AM
                             [**2194-1-26**]  04:11 AM
                             [**2194-1-26**]  05:10 PM
                             [**2194-1-27**]  04:28 AM
                             [**2194-1-27**]  10:11 AM
   WBC
   9.8
   6.2
   6.8
   6.6
   Hct
   26.6
   28.3
   26.7
   26.8
   27.2
   Plt
   296
   259
   276
   297
   Cr
   0.7
   0.8
   0.7
   0.8
   0.8
   0.9
   TropT
   0.04
   0.03
   TCO2
   32
   Glucose
   95
   99
   106
   100
   110
   105
   Other labs: PT / PTT / INR:29.6/28.0/3.0, CK / CKMB /
   Troponin-T:27//0.03, ALT / AST:17/18, Alk Phos / T Bili:72/0.5, Amylase
   / Lipase:33/56, LDH:183 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
 ANXIETY
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   77 y/o f w afib, diastolic CHF, returned from rehab after C7 fx with
   hypotension
   1. Hypotension: suspect med related
   -cont. coreg for afib
   -midodrine
   2. Diastolic CHF/afib:
   -goal neg 1-2 L
   -cont. coreg
   -coumadin cont. at 1 mg
   3. Resp failure:
   -NIF rechecked at -30
   -didn't tolerate [**4-1**] [**12-30**] rapid shallow breathing
   -cont. to wean, try [**9-1**] today
   4. C7fx:
   -try to get a stout collar
   -collar until [**2-26**], then with Dr. [**Last Name (STitle) 2660**]
   5. FEN: TF
   ICU Care
   Nutrition:
   Replete with Fiber ([**12-1**]) - [**2194-1-27**] 03:43 AM 60 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2194-1-23**] 04:56 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes
   ------ Protected Section ------
   I have seen and examined the patient with the fellow, reviewed and
   agree with the assessment and plan with the modifications and emphasis
   as below.
   77 year old history of atrial fibrillation, diastolic dysfunction, C7
   fracture who presents with respiratory failure, tachycardia,
   hypotension of which the hypotension/tachycardia are now improved.
   On exam, the patient is awake, alert with trach in place.
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft, NT ND
   Neuro: Alert and oriented, trach in place, moves extremities
   A:
   1)       Respiratory Failure
   2)       Atrial Fibrillation with RVR
   3)       Diastolic Dysfunction
   4)       C7 Fracture
   P:
   1)       Wean PS as tolerated
   2)       Continue coreg
   3)       Continue gentle diuresis
   4)       Plan for return to nursing home
   Critical Care Time: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2194-1-27**] 11:41 PM ------

2194-01-28 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Trial of [**9-1**] -> became tachypneic to 40's, holding abdomen
   - c-collar changed
   - Lasix 20 mg IV x 2 with low UOP to PM dose
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Cozaar (Oral) (Losartan Potassium)
   Unknown;
   Captopril
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2194-1-27**] 09:41 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-1-28**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.1
   HR: 90 (75 - 102) bpm
   BP: 118/75(84) {80/35(50) - 158/82(96)} mmHg
   RR: 19 (13 - 32) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
                  Total In:
                                                                  2,142 mL
                                                                    468 mL
   PO:
                  TF:
                                                                  1,462 mL
                                                                    468 mL
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,620 mL
                                                                    195 mL
   Urine:
                                                                  2,620 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -478 mL
                                                                    274 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 387 (250 - 463) mL
   PS : 15 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 150
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   SpO2: 96%
   ABG: 7.45/45/78.[**Numeric Identifier 181**]/31/6
   NIF: -30 cmH2O
   Ve: 6.9 L/min
   PaO2 / FiO2: 158
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   284 K/uL
   9.5 g/dL
   109 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.8 mEq/L
   31 mg/dL
   102 mEq/L
   140 mEq/L
   28.4 %
   6.1 K/uL
        [image002.jpg]
                             [**2194-1-23**]  08:16 AM
                             [**2194-1-23**]  04:40 PM
                             [**2194-1-23**]  05:00 PM
                             [**2194-1-24**]  05:20 AM
                             [**2194-1-25**]  04:53 AM
                             [**2194-1-26**]  04:11 AM
                             [**2194-1-26**]  05:10 PM
                             [**2194-1-27**]  04:28 AM
                             [**2194-1-27**]  10:11 AM
                             [**2194-1-28**]  04:05 AM
   WBC
   9.8
   6.2
   6.8
   6.6
   6.1
   Hct
   26.6
   28.3
   26.7
   26.8
   27.2
   28.4
   Plt
   296
   259
   276
   297
   284
   Cr
   0.7
   0.8
   0.7
   0.8
   0.8
   0.9
   0.9
   TropT
   0.04
   0.03
   TCO2
   32
   Glucose
   95
   99
   106
   100
   110
   105
   109
   Other labs: PT / PTT / INR:23.8/28.0/2.3, CK / CKMB /
   Troponin-T:27//0.03, ALT / AST:17/18, Alk Phos / T Bili:72/0.5, Amylase
   / Lipase:33/56, LDH:183 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   77 y/o lady with CHF, AF, HTN was discharged from Trauma service
   yesterday after she was admitted here with C7 fracure secondary to fall
   now presents with hypotension.
   .
   # Hypotension:  Most likely secondary to diastolic heart failure vs.
   autonomic instability vs. medication effect.  No signs of infection
   currently.  Patient was noted to have episodes of really low BP during
   recent hospitalization.  BP improved after discontinuing clonidine.
   She continues to have episodes of hypotension while sleeping, but no
   changes in mentation.
   - ideal BP will be SBP 90s given dCHF, however her BP does decrease
   below that while sleeping
   - Continue Midodrine.
   .
   # Chronic vent dependence:  Intubated for ? glottic swelling.  s/p
   thoracentesis for transudative pleural effusion during previous
   admission.   Patient also appears to have weakened diaphragm as
   indicated by low NIF.
   - wean vent as tolerated
   - continue to diurese 0.5 to 1 liter negative today with prn lasix
   - PMV trial once decreasing vent settings
   .
   # Diastolic heart failure:  Has chronic transudative right pleural
   effusion.  Will try to optimize management with BB if BP could
   tolerate.
   -          coreg 6.5 mg [**Hospital1 **], uptitrate as possible
   -          allergic to ace-I and [**Last Name (un) **]
   -          lasix IV prn for target I&O negative 1L for improvement in
   pleural effusion
   # Atrial fibrillation:
   - rate control with Carvedilol
   - Target INR [**12-31**], on Coumadin 1 mg daily
   .
   # Anemia:  Most likely secondary to recent admission and frequent
   phlebotomy.  Normocytic.
   - normal vit B12 and folate on [**2194-1-14**]
   - HCT improved appropriately after 1uPRBCs on [**12-23**]
   .
   # Thyroid disease:  Thyroid CA s/p surgery and radiation.
   - continue levothyroxine
   - needs out patient follow up
   .
   # C7-T2 fractures:  No clear history of stroke after comparing PCP
   [**Name Initial (PRE) 1596**].  C-spine without acute changes of C7/T2 fractures.
   - Per Ortho, keep C-collar on x 8 weeks ([**2-26**]).  F/u appt with
   [**Doctor Last Name 2660**] scheduled.
   - will fit with smaller c-collar
   .
   # FEN:  Continue tube feeds
   .
   # PPx:  Systemically anticoagulated, on coumadin.  Continue PPI while
   ventilator-dependent.
   .
   # Contact:  [**Name (NI) 2120**] [**Name (NI) 5696**] [**Telephone/Fax (1) 5980**].
   .
   # Code:  Full Code.
   .
   # Dispo:   Will remain in ICU, pending discharge back to rehab
   facility.
   ICU Care
   Nutrition:
   Replete with Fiber ([**12-1**]) - [**2194-1-28**] 04:19 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2194-1-23**] 04:56 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-01-28 12:01:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Diuresed 500 cc. Didn't tolerate [**9-1**] due to RR in 40s. Responded only
   to 40 mg IV lasix.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Cozaar (Oral) (Losartan Potassium)
   Unknown;
   Captopril
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2194-1-28**] 07:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-1-28**] 12:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.7
   HR: 84 (76 - 100) bpm
   BP: 84/57(63) {80/35(50) - 158/76(86)} mmHg
   RR: 23 (12 - 32) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
                  Total In:
                                                                  2,142 mL
                                                                    832 mL
   PO:
                  TF:
                                                                  1,462 mL
                                                                    712 mL
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,620 mL
                                                                  1,230 mL
   Urine:
                                                                  2,620 mL
                                                                  1,230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -478 mL
                                                                   -398 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 350 (250 - 463) mL
   PS : 13 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   SpO2: 92%
   ABG: ///31/
   Ve: 8.6 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): X3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   284 K/uL
   109 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.8 mEq/L
   31 mg/dL
   102 mEq/L
   140 mEq/L
   28.4 %
   6.1 K/uL
        [image002.jpg]
                             [**2194-1-23**]  08:16 AM
                             [**2194-1-23**]  04:40 PM
                             [**2194-1-23**]  05:00 PM
                             [**2194-1-24**]  05:20 AM
                             [**2194-1-25**]  04:53 AM
                             [**2194-1-26**]  04:11 AM
                             [**2194-1-26**]  05:10 PM
                             [**2194-1-27**]  04:28 AM
                             [**2194-1-27**]  10:11 AM
                             [**2194-1-28**]  04:05 AM
   WBC
   9.8
   6.2
   6.8
   6.6
   6.1
   Hct
   26.6
   28.3
   26.7
   26.8
   27.2
   28.4
   Plt
   296
   259
   276
   297
   284
   Cr
   0.7
   0.8
   0.7
   0.8
   0.8
   0.9
   0.9
   TropT
   0.04
   0.03
   TCO2
   32
   Glucose
   95
   99
   106
   100
   110
   105
   109
   Other labs: PT / PTT / INR:23.8/28.0/2.3, CK / CKMB /
   Troponin-T:27//0.03, ALT / AST:17/18, Alk Phos / T Bili:72/0.5, Amylase
   / Lipase:33/56, LDH:183 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 COUGH, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 VENTILATION, IMPAIRED
 TRANSFERS, IMPAIRED
 ANXIETY
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   1. Hypotension: Clonidine d/c'd, runs slightly low when sleeps
   2. Resp failure: Improved, down to 13/5 and 0.5
   -cont. weaning
   -cont. diuresis
   3. diastolic CHF and afib
   -cont. coreg
   -goal 500-1L today
   -cont. 1 mg coumadin, goal INR [**12-31**]
   4. hypothyroid: cont. synthroid
   5. C7 fx: cont. stout collar until [**2-26**]
   -f/u with Dr. [**Last Name (STitle) 2660**]
   6. FEN: TF
   -touch base with CM
   ICU Care
   Nutrition:
   Replete with Fiber ([**12-1**]) - [**2194-1-28**] 04:19 AM 60 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2194-1-23**] 04:56 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes
   ------ Protected Section ------
   I have seen and examined the patient with the fellow, reviewed and
   agree with the assessment and plan with the modifications and emphasis
   as below.
   77 year old history of atrial fibrillation, diastolic dysfunction, C7
   fracture who presents with respiratory failure, tachycardia,
   hypotension of which the hypotension/tachycardia are now improved.
   On exam, the patient is awake, alert with trach in place.
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft, NT ND
   Neuro: Alert and oriented, trach in place, moves extremities
   A:
   1)       Acute on Chronic Respiratory Failure
   2)       Atrial Fibrillation with RVR
   3)       Diastolic Dysfunction
   4)       C7 Fracture
   P:
   1)       Continue to wean PS as tolerated
   2)       Continue coreg
   3)       Continue gentle diuresis
   4)       Plan for return to nursing home when bed available
   Time: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2194-1-28**] 18:49 ------

2194-01-29 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: hypotension
   24 Hour Events:
   - lasix 40 IV given at MN
   - family does not want [**Hospital1 997**], now screening for [**Hospital1 6085**]
   LTAC
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Cozaar (Oral) (Losartan Potassium)
   Unknown;
   Captopril
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2194-1-29**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-1-29**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.3
C (99.2
   HR: 77 (74 - 120) bpm
   BP: 88/39(50) {69/36(44) - 148/86(96)} mmHg
   RR: 17 (9 - 30) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
                  Total In:
                                                                  1,802 mL
                                                                    554 mL
   PO:
                  TF:
                                                                  1,442 mL
                                                                    464 mL
   IVF:
   Blood products:
   Total out:
                                                                  2,180 mL
                                                                    730 mL
   Urine:
                                                                  2,180 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -378 mL
                                                                   -176 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 367 (350 - 498) mL
   PS : 13 cmH2O
   RR (Set): 12
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 109
   PIP: 19 cmH2O
   SpO2: 97%
   ABG: ///33/
   Ve: 8.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   303 K/uL
   9.7 g/dL
   123 mg/dL
   1.0 mg/dL
   33 mEq/L
   4.5 mEq/L
   35 mg/dL
   99 mEq/L
   140 mEq/L
   27.7 %
   7.9 K/uL
        [image002.jpg]
                             [**2194-1-23**]  04:40 PM
                             [**2194-1-23**]  05:00 PM
                             [**2194-1-24**]  05:20 AM
                             [**2194-1-25**]  04:53 AM
                             [**2194-1-26**]  04:11 AM
                             [**2194-1-26**]  05:10 PM
                             [**2194-1-27**]  04:28 AM
                             [**2194-1-27**]  10:11 AM
                             [**2194-1-28**]  04:05 AM
                             [**2194-1-29**]  05:03 AM
   WBC
   6.2
   6.8
   6.6
   6.1
   7.9
   Hct
   28.3
   26.7
   26.8
   27.2
   28.4
   27.7
   Plt
   259
   276
   297
   284
   303
   Cr
   0.8
   0.7
   0.8
   0.8
   0.9
   0.9
   1.0
   TropT
   0.03
   TCO2
   32
   Glucose
   99
   106
   100
   110
   105
   109
   123
   Other labs: PT / PTT / INR:21.6/25.4/2.0, CK / CKMB /
   Troponin-T:27//0.03, ALT / AST:17/18, Alk Phos / T Bili:72/0.5, Amylase
   / Lipase:33/56, LDH:183 IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
   77 y/o lady with CHF, AF, HTN was discharged from Trauma service
   yesterday after she was admitted here with C7 fracure secondary to fall
   now presents with hypotension.
   .
   # Hypotension:  Most likely secondary to diastolic heart failure vs.
   autonomic instability vs. medication effect.  No signs of infection
   currently.  Patient was noted to have episodes of really low BP during
   recent hospitalization.  BP improved after discontinuing clonidine.
   She continues to have episodes of hypotension while sleeping, but no
   changes in mentation.
   - ideal BP will be SBP 90s given dCHF, however her BP does decrease
   below that while sleeping
   - Continue Midodrine.
   .
   # Chronic vent dependence:  Intubated for ? glottic swelling.  s/p
   thoracentesis for transudative pleural effusion during previous
   admission.   Patient also appears to have weakened diaphragm as
   indicated by low NIF.
   - wean vent as tolerated
   - continue to diurese 0.5 to 1 liter negative today with prn lasix
   - PMV trial once decreasing vent settings
   .
   # Diastolic heart failure:  Has chronic transudative right pleural
   effusion.  Will try to optimize management with BB if BP could
   tolerate.
   -          coreg 6.5 mg [**Hospital1 **], uptitrate as possible
   -          allergic to ace-I and [**Last Name (un) **]
   -          lasix IV prn for target I&O negative 1L for improvement in
   pleural effusion
   # Atrial fibrillation:
   - rate control with Carvedilol
   - Target INR [**12-31**], on Coumadin 1 mg daily
   .
   # Anemia:  Most likely secondary to recent admission and frequent
   phlebotomy.  Normocytic.
   - normal vit B12 and folate on [**2194-1-14**]
   - HCT improved appropriately after 1uPRBCs on [**12-23**]
   .
   # Thyroid disease:  Thyroid CA s/p surgery and radiation.
   - continue levothyroxine
   - needs out patient follow up
   .
   # C7-T2 fractures:  No clear history of stroke after comparing PCP
   [**Name Initial (PRE) 1596**].  C-spine without acute changes of C7/T2 fractures.
   - Per Ortho, keep C-collar on x 8 weeks ([**2-26**]).  F/u appt with
   [**Doctor Last Name 2660**] scheduled.
   - will fit with smaller c-collar
   .
   # FEN:  Continue tube feeds
   .
   # PPx:  Systemically anticoagulated, on coumadin.  Continue PPI while
   ventilator-dependent.
   .
   # Contact:  [**Name (NI) 2120**] [**Name (NI) 5696**] [**Telephone/Fax (1) 5980**].
   .
   # Code:  Full Code.
   .
   # Dispo:   Will remain in ICU, pending discharge back to rehab
   facility.
   ICU Care
   Nutrition:
   Replete with Fiber ([**12-1**]) - [**2194-1-29**] 05:22 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2194-1-23**] 04:56 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-01-29 12:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Given 40 mg IV lasix at MN. Being screened for rehab.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Cozaar (Oral) (Losartan Potassium)
   Unknown;
   Captopril
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2194-1-29**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-1-29**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.4
C (99.4
   HR: 81 (74 - 120) bpm
   BP: 82/46(55) {69/36(44) - 148/86(96)} mmHg
   RR: 19 (9 - 30) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
                  Total In:
                                                                  1,802 mL
                                                                    893 mL
   PO:
                  TF:
                                                                  1,442 mL
                                                                    713 mL
   IVF:
   Blood products:
   Total out:
                                                                  2,180 mL
                                                                    850 mL
   Urine:
                                                                  2,180 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -378 mL
                                                                     43 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 382 (367 - 498) mL
   PS : 13 cmH2O
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 109
   PIP: 18 cmH2O
   SpO2: 97%
   ABG: ///33/
   Ve: 6.4 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   R base)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   303 K/uL
   123 mg/dL
   1.0 mg/dL
   33 mEq/L
   4.5 mEq/L
   35 mg/dL
   99 mEq/L
   140 mEq/L
   27.7 %
   7.9 K/uL
        [image002.jpg]
                             [**2194-1-23**]  04:40 PM
                             [**2194-1-23**]  05:00 PM
                             [**2194-1-24**]  05:20 AM
                             [**2194-1-25**]  04:53 AM
                             [**2194-1-26**]  04:11 AM
                             [**2194-1-26**]  05:10 PM
                             [**2194-1-27**]  04:28 AM
                             [**2194-1-27**]  10:11 AM
                             [**2194-1-28**]  04:05 AM
                             [**2194-1-29**]  05:03 AM
   WBC
   6.2
   6.8
   6.6
   6.1
   7.9
   Hct
   28.3
   26.7
   26.8
   27.2
   28.4
   27.7
   Plt
   259
   276
   297
   284
   303
   Cr
   0.8
   0.7
   0.8
   0.8
   0.9
   0.9
   1.0
   TropT
   0.03
   TCO2
   32
   Glucose
   99
   106
   100
   110
   105
   109
   123
   Other labs: PT / PTT / INR:21.6/25.4/2.0, CK / CKMB /
   Troponin-T:27//0.03, ALT / AST:17/18, Alk Phos / T Bili:72/0.5, Amylase
   / Lipase:33/56, LDH:183 IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 COUGH, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 VENTILATION, IMPAIRED
 TRANSFERS, IMPAIRED
 ANXIETY
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   1. Hypotension: Diastolic CHF, afib w RVR
   -change midodrine to 10 mg qhs
   -cont. coreg for now
   -coumadin increase to 1.5 mg hs
   -diurese 500 cc
   2. Resp failure: CHF
   -wean PS slowly today
   -diurese 500 cc today
   3. Anemia: stable hct, normocytic
   possible AOCD
   4. Hypothyroidism: cont. synthroid
   5. C7 fx: cont. stout C collar until f/u with Dr. [**Last Name (STitle) 2660**] on [**2-26**]
   6. FEN: TF
   ICU Care
   Nutrition:
   Replete with Fiber ([**12-1**]) - [**2194-1-29**] 05:22 AM 60 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2194-1-23**] 04:56 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes
   ------ Protected Section ------
   I have seen and examined the patient with the fellow, reviewed and
   agree with the assessment and plan with the modifications and emphasis
   as below.
   77 year old history of atrial fibrillation, diastolic dysfunction, C7
   fracture who presents with respiratory failure, tachycardia,
   hypotension of which the hypotension/tachycardia are now improved.
   On exam, the patient is awake, alert with trach in place.
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft, NT ND
   Neuro: Alert and oriented, trach in place, moves extremities
   A:
   1)       Acute on Chronic Respiratory Failure
   2)       Atrial Fibrillation with RVR
   3)       Diastolic Dysfunction
   4)       C7 Fracture
   5)       Low-grade fever
   P:
   1)       Continue to wean PS as tolerated
   2)       Continue coreg
   3)       Obtain peripheral access and discontinue PICC line because of
   low-grade fever
   Time: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2194-1-29**] 11:36 PM ------

2194-01-30 07:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - coumadin increased to 1.5
   - midodrine changed to qhs
   - given IV lasix x 1
   - bed at 10:30am today
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Cozaar (Oral) (Losartan Potassium)
   Unknown;
   Captopril
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-1-30**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37
C (98.6
   HR: 79 (68 - 100) bpm
   BP: 77/42(50) {65/37(44) - 129/81(92)} mmHg
   RR: 0 (0 - 33) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
                  Total In:
                                                                  1,783 mL
                                                                    319 mL
   PO:
                  TF:
                                                                  1,503 mL
                                                                    319 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,370 mL
                                                                    500 mL
   Urine:
                                                                  1,370 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    413 mL
                                                                   -181 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 284 (284 - 400) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 150
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: ///32/
   Ve: 8.1 L/min
   Physical Examination
   Gen: nad
   Pulm: bronchial bs on right, o/w ctab
   Cv: hrrr, no m/r/g
   Abd: s/nt/nd/nabs
   Extr: no c/c/e
   Labs / Radiology
   281 K/uL
   10.2 g/dL
   111 mg/dL
   0.9 mg/dL
   32 mEq/L
   3.8 mEq/L
   37 mg/dL
   100 mEq/L
   140 mEq/L
   29.7 %
   6.0 K/uL
        [image002.jpg]
                             [**2194-1-23**]  05:00 PM
                             [**2194-1-24**]  05:20 AM
                             [**2194-1-25**]  04:53 AM
                             [**2194-1-26**]  04:11 AM
                             [**2194-1-26**]  05:10 PM
                             [**2194-1-27**]  04:28 AM
                             [**2194-1-27**]  10:11 AM
                             [**2194-1-28**]  04:05 AM
                             [**2194-1-29**]  05:03 AM
                             [**2194-1-30**]  05:30 AM
   WBC
   6.2
   6.8
   6.6
   6.1
   7.9
   6.0
   Hct
   28.3
   26.7
   26.8
   27.2
   28.4
   27.7
   29.7
   Plt
   259
   276
   297
   [**Telephone/Fax (3) 6109**]
   Cr
   0.8
   0.7
   0.8
   0.8
   0.9
   0.9
   1.0
   0.9
   TCO2
   32
   Glucose
   99
   106
   100
   110
   105
   109
   123
   111
   Other labs: PT / PTT / INR:19.3/23.9/1.8, CK / CKMB /
   Troponin-T:27//0.03, ALT / AST:17/18, Alk Phos / T Bili:72/0.5, Amylase
   / Lipase:33/56, LDH:183 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
   77 y/o lady with CHF, AF, HTN was discharged from Trauma service
   yesterday after she was admitted here with C7 fracure secondary to fall
   now presents with hypotension.
   .
   # Hypotension:  Most likely secondary to diastolic heart failure vs.
   autonomic instability vs. medication effect.   Patient was noted to
   have episodes of really low BP during recent hospitalization.  BP
   improved after discontinuing clonidine.  She continues to have episodes
   of hypotension while sleeping, but no changes in mentation.  Midodrine
   changed to qhs
   - ideal BP will be SBP 90s given dCHF, however her BP does decrease
   below that while sleeping
   - continue midodrine 10mg qhs and current coreg dosing
   .
   # Chronic vent dependence:  Intubated for ? glottic swelling.  s/p
   thoracentesis for transudative pleural effusion during previous
   admission.   Patient also appears to have weakened diaphragm as
   indicated by low NIF.
   - wean vent as tolerated
   - continue to diurese 0.5 to 1 liter negative today with standing lasix
   .
   # Low grade fevers: 100.3 last night.  PICC line d/c
d last night.  Has
   some increased sputum but no leukocytosis or worsening vent
   requirements.  CXR today shows improvement compared to yesterday.
   - no need for antibiosis for now
   - follow fever curve
   .
   # Diastolic heart failure:  Has chronic transudative right pleural
   effusion.  Will try to optimize management with BB if BP could
   tolerate.
   - coreg 6.5 mg [**Hospital1 **], uptitrate as possible
   - allergic to ace-I and [**Last Name (un) **]
   -  lasix IV standing
   .
   # Atrial fibrillation:
   - rate control with Carvedilol
   - Target INR [**12-31**], increase Coumadin to 2.0 mg daily
   .
   # Anemia:  Most likely secondary to recent admission and frequent
   phlebotomy.  Normocytic.
   - normal vit B12 and folate on [**2194-1-14**]
   - HCT improved appropriately after 1uPRBCs on [**1-23**]
   .
   # Thyroid disease:  Thyroid CA s/p surgery and radiation.
   - continue levothyroxine
   - needs out patient follow up
   .
   # C7-T2 fractures:  No clear history of stroke after comparing PCP
   [**Name Initial (PRE) 1596**].  C-spine without acute changes of C7/T2 fractures.
   - Per Ortho, keep C-collar on x 8 weeks ([**2-26**]).  F/u appt with
   [**Doctor Last Name 2660**] scheduled.
   .
   # FEN:  Continue tube feeds
   .
   # PPx:  Systemically anticoagulated, on coumadin.  Continue PPI while
   ventilator-dependent.
   .
   # Contact:  [**Name (NI) 2120**] [**Name (NI) 5696**] [**Telephone/Fax (1) 5980**].
   .
   # Code:  Full Code.
   .
   # Dispo:   discharge to rehab today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2194-1-30**] 12:00 AM
   20 Gauge - [**2194-1-30**] 12:00 AM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: